US04981973
Vinyl pivalate (91 pounds) was prepared in two, 20 gallon-batch runs in a 30 gallon stainless steel reactor. In two batches, pivalic acid (75.5 lbs, 10 gallons) and vinyl acetate (77.9 lbs, 10 gallons) were transvinylated in the presence of 300 ppm ruthenium catalyst, described in the preceeding paragraph, at 145° C. using a 50 psig carbon monoxide reaction atmosphere for 5 hours. Reaction product was removed from the reactor by vacuum distillation (60°-130° C., 240 mm Hg) from the ruthenium catalyst without difficulty. Based on gas chromatographic analysis, 90.4% and 94.7% of the vinyl pivalate respectively formed in the two reaction batches, could be accounted for after distillation. This demonstrates that reequilibration of vinyl pivalate (and acetic acid) to vinyl acetate (and pivalic acid) was successfully controlled during distillation within 9.6% (batch 1) and 5.3% (batch 2), respectively. Mass balances for all components were better than 98%.

reactant | pivalic acid | 10 gallons, 75.5 lbs | C(C(C)(C)C)(=O)O | C5H10O2
reactant | carbon monoxide | [C]=O | CO
reactant | vinyl acetate | 10 gallons, 77.9 lbs | C(C)(=O)OC=C | C4H6O2
catalyst | ruthenium | [Ru] | Ru
product | Vinyl pivalate | 91 pounds | C(C(C)(C)C)(=O)OC=C | C7H12O2
